US08975415B2
A mixture of di-tert-butyl (6′-bromotrispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-yl)imidodicarbonate (14.1 mg), 2-fluoro-5-methoxyphenylboronic acid (12.7 mg), PdCl2(PPh3)2 (5.3 mg) and 1M aqueous Na2CO3 (0.1 mL) in dioxane (0.4 mL) was stirred for 2 hours at 100° C. The mixture was filtered by using Chem Elut cartridges (Agilent Technologies) and washed with CHCl3. The filtrate was evaporated to give a brown oil. The oil was dissolved in toluene (0.5 mL) and to the mixture was added silicagel (neutral; 50 mg). The mixture was stirred for 1 hour at 100° C. The mixture was filtered and washed with CHCl3. The filtrate was evaporated. The residue was purified with HPLC (Column: Waters SunFire™ Prep C18 OBD™ 5 micrometer, 19×100 mm; MeOH/0.1% aqueous HCOOH 11/89 to 95/5(v/v)) and afforded 6′-(2-fluoro-5-methoxyphenyl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-amine (1.5 mg).

reactant | di-tert-butyl (6′-bromotrispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-yl)imidodicarbonate | 14.1 mg | BrC=1C=C2C(=CC1)OC1(CCC1)C1(COC1)C21N=C(OC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C26H33BrN2O7
reactant | 2-fluoro-5-methoxyphenylboronic acid | 12.7 mg | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
reactant | Na2CO3 | 1M, 0.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(PPh3)2 | 5.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6′-(2-fluoro-5-methoxyphenyl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-amine | 1.5 mg | FC1=C(C=C(C=C1)OC)C=1C=C2C(=CC1)OC1(CCC1)C1(COC1)C21N=C(OC1)N | C23H23FN2O4
